US06451810B1
Oxalyl chloride (4.4 mL of 2M in chloroform, 8.8 mmol) was added to a suspension of 4-(chloromethyl)benzoic acid (1 g, 5.7 mmol) in dichloromethane. N,N-dimethylformamide (4 drops) was added to catalyze the reaction. After 1 hour analysis by HPLC indicated 100% clean conversion. The reaction mixture was concentrated under vacuum to provide 4-(chloromethyl)benzoyl chloride.

reactant | Oxalyl chloride | 8.8 mmol, 2M, 4.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(chloromethyl)benzoic acid | 5.7 mmol, 1 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
